US07615562B2
Step B: 3-[2-(2,2,6,6-Tetramethyl-piperidin-4-ylamino)-pyrimidin-4-yl]-1-(2-trimethylsilanyl-ethoxymethyl)-1H-indole-6-carboxylic acid
To a solution of [3-[2-(2,2,6,6-Tetramethyl-piperidin-4-ylamino)-pyrimidin-4-yl]1-(2-trimethylsilanyl-ethoxymethyl)-1H-indol-6-yl]-methanol (7.20 g, 14.1 mmol) in DMSO (35 ml) and Et3N (31.4 ml, 226 mmol) was added a solution of sulfur trioxide pyridine complex (6.73 g, 42.3 mmol) in DMSO (35 ml). After stirring for 2 h at room temperature, the reaction mixture was poured into EtOAc and the organic phase was washed with water. The organic layer was dried and concentrated. The crude product was dissolved in tert-butanol (645 ml) and 2-methyl-2-butene (100 ml). Then sodium dihydrogenphosphate (4.19 g, 35.0 mmol) dissolved in water (50 ml) was added followed by sodium chlorite (7.91 g, 70.0 mmol) dissolved in water (75 ml) The reaction mixture was stirred overnight and concentrated and diluted with EtOAc upon which a yellow solid was obtained which was used without further purification. Yield: 5.00 g (69%).

reactant | [3-[2-(2,2,6,6-Tetramethyl-piperidin-4-ylamino)-pyrimidin-4-yl]1-(2-trimethylsilanyl-ethoxymethyl)-1H-indol-6-yl]-methanol | 14.1 mmol, 7.20 g | CC1(NC(CC(C1)NC1=NC=CC(=N1)C1=CN(C2=CC(=CC=C12)CO)COCC[Si](C)(C)C)(C)C)C | C28H43N5O2Si
reactant | Et3N | 226 mmol, 31.4 ml | CCN(CC)CC | C6H15N
reactant | sodium dihydrogenphosphate | 35.0 mmol, 4.19 g | P(=O)(O)(O)[O-].[Na+]
reactant | sodium chlorite | 70.0 mmol, 7.91 g | Cl(=O)[O-].[Na+]
solvent | DMSO | 35 ml | CS(=O)C | C2H6OS
solvent | DMSO | 35 ml | CS(=O)C | C2H6OS
solvent | water | 50 ml | O | H2O
solvent | water | 75 ml | O | H2O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 3-[2-(2,2,6,6-Tetramethyl-piperidin-4-ylamino)-pyrimidin-4-yl]-1-(2-trimethylsilanyl-ethoxymethyl)-1H-indole-6-carboxylic acid | CC1(NC(CC(C1)NC1=NC=CC(=N1)C1=CN(C2=CC(=CC=C12)C(=O)O)COCC[Si](C)(C)C)(C)C)C | C28H41N5O3Si
